US07582773B2
Step 5: Synthesis of [4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1-benzyl-2,3-dimethyl-1H-indol-5-yl)-phenol (0.300 g, 0.916 mmol) was reacted with K2CO3 (0.152 g, 1.099 mmol) and bromoacetonitrile (0.132 g, 1.099 mmol) in acetone (10 ml) to give the product (0.207 g, 0.565 mmol, 62%) as a pale-blue solid, mp 167-169° C. 1H NMR (DMSO-d6) δ 2.25 (s, 3H), 2.28 (s, 3H), 5.19 (s, 2H), 5.39 (s, 2H), 6.98 (d, J=7.5 Hz, 2H), 7.12 (d, J=8.6 Hz, 2H), 7.21 (t, J=7.2 Hz, 1H), 7.26-7.30 (m, 3H), 7.39 (d, J=8.4 Hz, 1H), 7.65-7.67 (m, 3H); [ESI(+)], m/z 367 (M+H)+.

reactant | 4-(1-benzyl-2,3-dimethyl-1H-indol-5-yl)-phenol | 0.916 mmol, 0.300 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)C)C | C23H21NO
reactant | K2CO3 | 1.099 mmol, 0.152 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 1.099 mmol, 0.132 g | BrCC#N | C2H2BrN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)C)C | C25H22N2O
